US06265423B1
d) Preparation of (5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthalenyl)-methyl triphenylphosphonium bromide of formula
The raw 6-bromomethyl-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene (8.80 g, about 32 mmol) prepared previously is mixed with triphenylphosphine (10.1 g, 38.4 mmol) in solution in 50 ml of dichloromethane for 24 hours, then diluted with ethyl ether (200 ml). The [(5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthalenyl)-methyl]triphenylphosphonium bromide precipitates, is filtered and washed abundantly with the ether. 10.72 g of white crystals (5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthalenyl)-methyl-triphenylphosphonium bromide is obtained after drying (yield=60%).

reactant | 6-bromomethyl-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene | about 32 mmol, 8.80 g | BrCC=1C=C2C(CCC(C2=CC1C)(C)C)(C)C | C16H23Br
reactant | triphenylphosphine | 38.4 mmol, 10.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | (5,6,7,8-tetrahydro-3,5,5,8,8-pentamethyl-2-naphthalenyl)-methyl triphenylphosphonium bromide | 10.72 g, yield=60% | [Br-].CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1=C(C=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C | InChI=1S/C34H38P.BrH/c1-25-23-30-31(34(4,5)22-21-33(30,2)3)24-29(25)28-19-13-14-20-32(28)35(6,26-15-9-7-10-16-26)27-17-11-8-12-18-27;/h7-20,23-24H,21-22H2,1-6H3;1H/q+1;/p-1
